US07772234B2
Step B: Preparation of 5-bromo-2-(2-chlorophenylamino)-3, 4-difluorobenzoic acid.
To a solution of i-Pr2NH (25.0 mL, 178 mmol) in THF (200 mL) at 0° C. was added n-BuLi (71.0 mL, 178 mmol, 2.5 M solution in hexanes). After stirring for 15 minutes, this solution was cooled to −78° C. 2-Chloroaniline (12.7 mL, 118 mmol) was added. After vigorous stirring for 10 minutes, a solution of 5-bromo-2,3,4-trifluorobenzoic acid (14.95 g, 58.63 mmol) in THF (30 mL) was added. The dry-ice bath was removed, and the reaction mixture was stirred for 2 hours at room temperature. The mixture was concentrated, treated with 10% aqueous HCl (120 mL), extracted with EtOAc, dried over MgSO4, filtered, and concentrated to give the crude solid which was triturated with boiling CH2Cl2 (125 mL). The yellow solids were filtered, and dried in vacuo to give the desired product (17.4 g, 82%).

reactant | i-Pr2NH | 178 mmol, 25.0 mL | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 178 mmol, 2.5 M, 71.0 mL | [Li]CCCC
reactant | 2-Chloroaniline | 118 mmol, 12.7 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 5-bromo-2,3,4-trifluorobenzoic acid | 58.63 mmol, 14.95 g | BrC=1C(=C(C(=C(C(=O)O)C1)F)F)F | C7H2BrF3O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-(2-chlorophenylamino)-3, 4-difluorobenzoic acid | 17.4 g, 82% | BrC=1C(=C(C(=C(C(=O)O)C1)NC1=C(C=CC=C1)Cl)F)F | C13H7BrClF2NO2
